US05643878
c: Z-(L)-Val-(L)-Tyr-morpholin-4-ylamide
At 0° C., 5.18 g (25 mmol) of DCC and 3.73 g (27.5 mmol) of HOBT are added to a solution of 6.3 g (25 mmol) of Z-(L)-Val-OH in 400 ml of methylene chloride and the mixture is then stirred for 20 min. A solution of 6.27 g (25 mmol) of H-(L)-Tyr-morpholin-4-ylamide in 600 ml of methylene chloride is subsequently added. After the mixture has been stirred for 18 h at RT, working up is carried out as described in Example 41 A) a): TLC Rf (B)=0.50.

reactant | DCC | 25 mmol, 5.18 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBT | 27.5 mmol, 3.73 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Z-(L)-Val-OH | 25 mmol, 6.3 g | N([C@@H](C(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C13H17NO4
reactant | H-(L)-Tyr morpholin-4-ylamide | 25 mmol, 6.27 g | N[C@@H](CC1=CC=C(C=C1)O)C(=O)O.N1(CCOCC1)[NH-]
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 600 ml | C(Cl)Cl | CH2Cl2
product | Z-(L)-Val-(L)-Tyr morpholin-4-ylamide | N([C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OCC1=CC=CC=C1.N1(CCOCC1)[NH-] | InChI=1S/C22H26N2O6.C4H9N2O/c1-14(2)19(24-22(29)30-13-16-6-4-3-5-7-16)20(26)23-18(21(27)28)12-15-8-10-17(25)11-9-15;5-6-1-3-7-4-2-6/h3-11,14,18-19,25H,12-13H2,1-2H3,(H,23,26)(H,24,29)(H,27,28);5H,1-4H2/q;-1/t18-,19-;/m0./s1
